US07432258B2
Ethyl [2-oxo-5-[(trifluoromethyl)oxy]-1,3-benzoxazol-3(2H)-yl]acetate (0.96 g, 3.0 mmol) was dissolved in 10 mL of tetrahydrofuran and treated with a solution of LiOH (0.083 g, 3.5 mmol) dissolved in 1.0 mL of water. The reaction was stirred vigorously at room temperature for 18 hours before it was determined to be complete by LCMS (two Aquasil C18, 20×1 mm columns were run in sequence, 4 minutes at 0.1 1 mL/min, 1-99% CH3CN/H2O with 0.018% trifluoroacetic acid, ES) Rt=2.3 min and m/e 278 [M+1]+. The solvent was removed by rotary evaporation and the residue was then dissolved in 100 mL of ethyl acetate. The organic layer was washed with a 10% hydrochloric acid solution (3×30 mL) and the organic phase was then dried over Na2SO4, filtered and concentrated under vacuum. The crude residue was purified by prep HPLC (Phenomenex, 30×75 mm, 40 mL/min, A: acetonitrile (0.1% TFA) B: water (0.1% TFA), A: 10 to 99% over 15 min, UV detection at 214 nm) to give [2-oxo-5-[(trifluoromethyl)oxy]-1,3-benzoxazol-3(2H)-yl]acetic acid (0.39 g, 1.4 mmol, 47%) as an off-white amorphous solid. MS (ES) m/e 278 [M+H]+.

reactant | Ethyl [2-oxo-5-[(trifluoromethyl)oxy]-1,3-benzoxazol-3(2H)-yl]acetate | 3.0 mmol, 0.96 g | O=C1OC2=C(N1CC(=O)OCC)C=C(C=C2)OC(F)(F)F | C12H10F3NO5
reactant | LiOH | 3.5 mmol, 0.083 g | [Li+].[OH-]
reactant | CH3CN H2O | CC#N.O
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | water | 1.0 mL | O | H2O
product | [2-oxo-5-[(trifluoromethyl)oxy]-1,3-benzoxazol-3(2H)-yl]acetic acid | 1.4 mmol, 0.39 g, 47% | O=C1OC2=C(N1CC(=O)O)C=C(C=C2)OC(F)(F)F | C10H6F3NO5
